US06635640B2
Pyridinium tribromide (90% (Aldrich), 1.9 g, 5.34 mmol) was added portion-wise over 10 minutes to a suspension of 4-thiazol-2-yl-1H-indole (360 mg, 1.78 mmol) in 2-methyl-2-propanol (15 mL), ethanol (9 mL) and acetic acid (5 mL). The mixture was stirred at room temperature for 2 hours after which acetic acid (18 mL), water (1 mL) and zinc dust (1.5 g, 23.14 mmol) were added. Stirring was continued for 1.5 hours. Residual zinc dust was removed by filtration and washed with methanol. The filtrate was concentrated and the syrupy residue was stirred in water (50 mL) overnight. The solid which formed was filtered, washed with water to remove the zinc and pyridine salts and dried under high vacuum to give 4-thiazol-2-yl-1,3-dihydroindol-2-one.

reactant | Pyridinium tribromide | 5.34 mmol, 1.9 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | 4-thiazol-2-yl-1H-indole | 1.78 mmol, 360 mg | S1C(=NC=C1)C1=C2C=CNC2=CC=C1 | C11H8N2S
reactant | water | 1 mL | O | H2O
solvent | 2-methyl-2-propanol | 15 mL | CC(C)(C)O | C4H10O
solvent | ethanol | 9 mL | C(C)O | C2H6O
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 23.14 mmol, 1.5 g | [Zn] | Zn
solvent | acetic acid | 18 mL | C(C)(=O)O | C2H4O2
product | 4-thiazol-2-yl-1,3-dihydroindol-2-one | S1C(=NC=C1)C1=C2CC(NC2=CC=C1)=O | C11H8N2OS
